US07371773B2
4-Diethoxymethyl-benzaldehyde (4.16 g) and 3,4-dimethoxybenzyl cyanide (3.54 g) were subjected to condensation in accordance with process A of (production process 2), to thereby produce (Z)-3-(4-diethoxymethyl-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile (6.54 g, yield: 89%). The thus-produced (Z)-3-(4-diethoxymethyl-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile (1.84 g) was dissolved in methanol, and water and 2N sulfuric acid were added to the resultant solution, followed by stirring, to thereby produce the target product (1.20 g, yield: 82%).

reactant | 4-Diethoxymethyl-benzaldehyde | 4.16 g | C(C)OC(C1=CC=C(C=O)C=C1)OCC | C12H16O3
reactant | 3,4-dimethoxybenzyl cyanide | 3.54 g | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-3-(4-diethoxymethyl-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile | 6.54 g, yield: 89% | C(C)OC(C1=CC=C(C=C1)\C=C(/C#N)\C1=CC(=C(C=C1)OC)OC)OCC | C22H25NO4
